* Slewrate simulation

.lib tran1

VDD	vdd 0	'half'
VSS	0 vss	'half'
 
* For rise edge slewrate
X1	s1 in1 o1 vdd vss	opamp
R1a	s1 0	valr1
R1b	o1 s1	valr2
 
* For fall edge slewrate
X2	s2 in2 o2 vdd vss	opamp
R2a	s2 0	valr1
R2b	o2 s2	valr2
 
* Offset voltage
Xos	ss 0 os vdd vss		opamp
Rosa	ss 0	valr1
Ros	os ss	valr2
 
* Stimulus
VIN1 in1 0 PWL (
+'td' '-vp'
+'td+tr' 'vp'
+'td+tr+tp' 'vp'
+'td+tr+tp+tf' 'vp/2'
+'td+tr+tp+tf+tp' 'vp/2' )
 
E1	0 in2 in1 0	1    $ inverted input for fall edge 
 
.PARAM half='psvoltage/2' valr1=10k valr2=10k srmax=1e11
* + vp=             $ pulse amplitude, use your simulated value of maximum input voltage
+ td=100n         $ pulse delay
+ tr='vp/srmax'   $ pulse rise time
+ tf='vp/srmax'	  $ pulse fall time
+ tp=200u         $ pulse width
 
* Analysis
.TRAN 10p 400u    $ transient simulation for 400us with 10ps time step
* .TRAN 1n 400u    $ transient simulation for 400us with 10ps time step
* Measurements for rise edge (remove offset voltage from the output voltage)
.MEAS TRAN vo1min  FIND  V(o1,os) AT=0
.MEAS TRAN vo1max  FIND  V(o1,os) AT=200u
.MEAS TRAN vo1f    FIND  V(o1,os) AT=400u
.MEAS TRAN vi1f    FIND  V(in1)   AT=400u
.MEAS TRAN srr1 DERIV V(o1,os) WHEN V(o1,os)='0.9*vo1min'
.MEAS TRAN srr2 DERIV V(o1,os) WHEN V(o1,os)=0
.MEAS TRAN srr3 DERIV V(o1,os) WHEN V(o1,os)='0.9*vo1max'
.MEAS TRAN srr  PARAM='(srr1+srr2+srr3)/3'
 
* Measurements for fall edge (remove offset voltage from the output voltage)
.MEAS TRAN vo2max  FIND V(o2,os)  AT=0
.MEAS TRAN vo2min  FIND V(o2,os)  AT=200u
.MEAS TRAN vo2f    FIND V(o2,os)  AT=400u
.MEAS TRAN vi2f    FIND V(in2)    AT=400u
.MEAS TRAN srf1 DERIV V(o2,os) WHEN V(o2,os)='0.9*vo2max'
.MEAS TRAN srf2 DERIV V(o2,os) WHEN V(o2,os)=0
.MEAS TRAN srf3 DERIV V(o2,os) WHEN V(o2,os)='0.9*vo2min'
.MEAS TRAN srf  PARAM='(srf1+srf2+srf3)/3'
 
* Choose the smaller value as slewrate measurement result
.MEAS TRAN sr   PARAM='min(abs(srr),abs(srf))'

* .PRINT TRAN V(o1,os) V(o2,os)

.endl tran1
